US06777418B2
A mixture of 1 g (3 mmol) of 2-bromo-3-methyl-6-acetoxy -5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene, 0.68 ml (4.42 mmol) of trimethoxyvinyl silane, 0.12 g (0.53 mmol), 0.36 g of Tri-o-tolylphosphine (1.2 mmol) and 0.82 mL of triethylamine (5.9 mmol) in 10 mL of N-methyl pyrollidine was heated at 90° C. After 3 hours, the reaction was cooled to room temperature and 0.57 mL (3.5 mmol) of ethyl4-bromobenzoate, 0.82 mL of triethylamine (5.9 mmol) and 5 mL (5 mmol) of tetrabutylammonium fluoride were added. The reaction mixture was heated to 90° again. After 2.5 hours, the reaction was cooled to room temperature, poured into brine and extracted with ethyl acetate. The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution 2-5% ethyl acetate/hexane) to afford 0.2 g (20%) of Ethyl-4-[(E)-2-(5,5,8,8-Tetramethyl-3-methyl-6-acetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate (M+=434).

reactant | 2-bromo-3-methyl-6-acetoxy -5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 3 mmol, 1 g | BrC1=CC=2C(CC(C(C2C=C1C)(C)C)OC(C)=O)(C)C | C17H23BrO2
reactant | trimethoxyvinyl silane | 4.42 mmol, 0.68 ml | COC(=C(OC)OC)[SiH3] | C5H12O3Si
reactant | Tri-o-tolylphosphine | 1.2 mmol, 0.36 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 5.9 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl4-bromobenzoate | 3.5 mmol, 0.57 mL | C(C)OC(C1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | triethylamine | 5.9 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 5 mmol, 5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N-methyl pyrollidine | 10 mL | CN1CCCC1 | C5H11N
solvent | brine | [Cl-].[Na+].O
product | Ethyl-4-[(E)-2-(5,5,8,8-Tetramethyl-3-methyl-6-acetoxy-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 0.2 g, 20% | C(C)OC(C1=CC=C(C=C1)\C=C\C1=CC=2C(CC(C(C2C=C1C)(C)C)OC(C)=O)(C)C)=O | C28H34O4
